US07745438B2
(2R,3S,5S)-2-(2,2-Dimethylpropoxy)-5-hydroxymethyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Stir (2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.65 g, 1.59 mmol) and 20% palladium hydroxide on carbon (0.65 g) in methanol (25 mL) under a hydrogen atmosphere at room temperature for 2 hours. Filter through Celite®, concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes) to give the desired compound as an oil (471 mg 93.0%).

reactant | (2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 1.59 mmol, 0.65 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1COCC1=CC=CC=C1)OCC(C)(C)C)C | C23H37NO5
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.65 g | [OH-].[OH-].[Pd+2]
product | (2R,3S,5S)-2-(2,2-Dimethylpropoxy)-5-hydroxymethyl-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 471 mg, 93.0% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1CO)OCC(C)(C)C)C | C16H31NO5
